US07732365B2
α-Ethynyl-N-(o-bromophenyl)-benzenemethanamine.
The general procedure was followed with cinnamyl carbonate (0.188 g, 0.979 mmol) and o-bromoaniline (0.215 g, 1.25 mmol). The reaction was conducted at room temperature for 16 h. 1H NMR analysis of the crude reaction mixture indicated the ratio of regioisomers to be 93/7. The mixture was purified by flash column chromatography on silica gel (1.5% ethyl acetate in hexanes) to give the title compound (0.185 g, 66%). HPLC analysis indicated the enantiomeric excess of the product was 94% [Diacel CHIRALCEL OD-H (0.46 cm×25 cm); hexane/2-propanol=99.75/0.25; flow rate=0.6 mL/1 min; detection wavelength=254 nm; TR=14.8 (minor), 23.9 (major) min]: [α]DRT=(c, CHCl3). 1H NMR (400.13 MHz, CDCl3) δ 7.46-7.25 (m, 6H), 7.07 (td, J=7.6, 0.8 Hz, 1H), 6.55 (t, J=7.6 Hz, 2 H), 6.07 (ddd, J=16.8, 10.4, 6.0 Hz, 1H), 5.27 (d, J=10.0 Hz, 1H), 5.24 (t, J=1.2 Hz, 1H), 4.98 (t, J=5.6 Hz, 1H), 4.75 (d, J=5.2 Hz, 1H). 13C NMR (100.59 MHz, CDCl3) δ 143.82, 141.13, 138.58, 132.26, 128.79, 128.26, 127.54, 126.94, 118.05, 116.25, 112.71, 109.91, 60.53. Anal. Calcd for C15H14NBr: C, 62.52; H, 4.90; N, 4.86; Br, 27.73. Found: C, 62.77; H, 4.92; N, 4.87; Br, 27.46.

reactant | cinnamyl carbonate | 0.979 mmol, 0.188 g | C(OCC=CC1=CC=CC=C1)([O-])=O
reactant | o-bromoaniline | 1.25 mmol, 0.215 g | BrC1=C(N)C=CC=C1 | C6H6BrN
product | α-Ethynyl-N-(o-bromophenyl)-benzenemethanamine | 0.185 g, 66% | C(#C)C(NC1=C(C=CC=C1)Br)C1=CC=CC=C1 | C15H12BrN
